* D:\Spice.Test\PWM.asc

.subckt pwm P N
B1 P N V=Round(V(S1))*A
V1 S1 N001 PULSE(0 0.5 0 {T1*0.5} {T1*0.5} 0 {T1})
V2 N001 0 PULSE(0 0.5 0 {T2*0.5} {T2*0.5} 0 {T2})
.param T1=20m
.param T2=1
.param A=1
.ends pwm

